US06359013B1
E-4-bromostyryl 4-bromobenzyl sulfone
A solution of 4-bromobenzyl sulfonylacetic acid (0.01 mol) and 4-bromobenzaldehyde (0.01 mol) was subjected to Procedure 1. The title compound was obtained in 88% yield.

reactant | 4-bromobenzyl sulfonylacetic acid | 0.01 mol | BrC1=CC=C(CS(=O)(=O)CC(=O)O)C=C1 | C9H9BrO4S
reactant | 4-bromobenzaldehyde | 0.01 mol | BrC1=CC=C(C=O)C=C1 | C7H5BrO
product | E-4-bromostyryl 4-bromobenzyl sulfone | 88% yield | BrC1=CC=C(CS(=O)(=O)\C=C\C2=CC=C(C=C2)Br)C=C1 | C15H12Br2O2S
